US08404680B2
Intermediate VI-2: Starting from (3aS,6aS)-rel-3-fluoromethyl-3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazole and 1-bromo-2-fluorobenzene, the product (3S,3aS,6aS)-rel-3-fluoromethyl-3-(2-fluoro-phenyl)-hexahydro-furo[3,4-d]isoxazole was obtained as a light yellow oil. MS: m/z=242.1 [M+H]+.

reactant | (3aS,6aS)-rel-3-fluoromethyl-3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazole | FCC1=NO[C@H]2[C@@H]1COC2 | C6H8FNO2
reactant | 1-bromo-2-fluorobenzene | BrC1=C(C=CC=C1)F | C6H4BrF
product | (3S,3aS,6aS)-rel-3-fluoromethyl-3-(2-fluoro-phenyl)-hexahydro-furo[3,4-d]isoxazole | FC[C@@]1(NO[C@H]2[C@@H]1COC2)C2=C(C=CC=C2)F | C12H13F2NO2
